US08835628B2
2-ethyl-4-(perfluorophenylcarbonyl)-8-(prop-1-enyl)-2H-benzo[b][1,4]oxazin-3(4H)-one
Procedure & NMR Data: 265 μL of pentafluorobenzoyl chloride (2 eq, 1.84 mmol) was added to a mixture of 148 mg of NaH (4 eq, 3.68 mmol) and 200 mg (0.92 mmol) of oxazinone P2 in THF (22 ml). 240 mg of P5 were obtained, yield 63%.

reactant | pentafluorobenzoyl chloride | 1.84 mmol, 2 eq | FC1=C(C(=C(C(=C1C(=O)Cl)F)F)F)F | C7ClF5O
reactant | NaH | 3.68 mmol, 148 mg, 4 eq | [H-].[Na+]
reactant | oxazinone | 0.92 mmol, 200 mg | O1NC(CC=C1)=O | C4H5NO2
reactant | THF | 22 ml | C1CCOC1 | C4H8O
product | 2-ethyl-4-(perfluorophenylcarbonyl)-8-(prop-1-enyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | yield 63% | C(C)C1C(N(C2=C(O1)C(=CC=C2)C=CC)C(=O)C2=C(C(=C(C(=C2F)F)F)F)F)=O | C20H14F5NO3
